US07745438B2
(2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3-fluoro-5-isobutoxy-phenyl)-1-hydroxypropyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester
Add 1-bromo-2-methyl-propane (0.05 g, 0.35 mmol) to (2R,3S,5R)-5-[(1S,2S)-2-acetylamino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester (0.12 g, 0.23 mmol) and cesium carbonate (0.15 g, 0.46 mmol) in N,N-dimethylformamide (3 mL) under nitrogen and heat in a 60° C. oil bath for 2.5 hours. Cool to room temperature and dilute with ethyl acetate. Wash (0.1N citric acid, 10% potassium carbonate, saturated aqueous sodium chloride), dry (magnesium sulfate), filter and concentrate. Purify on 12 g silica gel column eluting with 100:0 to 40:60 hexanes:ethyl acetate to give 0.072 g (54.5%) of the title compound as a white foam.

reactant | 1-bromo-2-methyl-propane | 0.35 mmol, 0.05 g | BrCC(C)C | C4H9Br
reactant | (2R,3S,5R)-5-[(1S,2S)-2-acetylamino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 0.23 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)O)F)NC(C)=O)O)OCC(C)(C)C)C | C26H41FN2O7
reactant | cesium carbonate | 0.46 mmol, 0.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3-fluoro-5-isobutoxy-phenyl)-1-hydroxypropyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 0.072 g, 54.5% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)OCC(C)C)F)NC(C)=O)O)OCC(C)(C)C)C | C30H49FN2O7
